US08461175B2
A 150 ml round-bottomed flask equipped with a magnetic stirrer and with a septum having a top-mounted argon intake is charged with 1 g of 3-bromo-5-(2,6-difluorophenyl)-7-vinyl-1H-pyrazolo[4,3-c]isoquinoline in 13 ml of THF and then 7 ml of water, 13 ml of tert-butanol, 0.79 ml of a solution of osmium tetroxide at 2.5% in 2-methyl-2-propanol, and 17 g of sodium periodate are added. The mixture is stirred at RT for 3 h and then poured into water, extracted with AcOEt, washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. This gives 1.047 g of a crude product, which is purified by chromatography on silica gel (20-45 μm), eluting with a mixture of DCM and methanol (95/5 by vol.), to give 686 mg of 3-bromo-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde (cream solid). MS (E/I): m/z=388 (M+); 1H NMR: 7.41 (d, J=7.9 Hz, 2H); 7.77 (m, 1H); 8.34 (broad s, 1H); 8.47 (dd, J=8.5, 1.2 Hz, 1H); 8.69 (d, J=8.5 Hz, 1H); 10.15 (s, 1H); 14.89 (broad m, 1H).

reactant | 3-bromo-5-(2,6-difluorophenyl)-7-vinyl-1H-pyrazolo[4,3-c]isoquinoline | 1 g | BrC1=NNC2=C1N=C(C=1C=C(C=CC21)C=C)C2=C(C=CC=C2F)F | C18H10BrF2N3
reactant | water | 7 ml | O | H2O
reactant | sodium periodate | 17 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | 2-methyl-2-propanol | CC(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | tert-butanol | 13 ml | C(C)(C)(C)O | C4H10O
product | 3-bromo-5-(2,6-difluorophenyl)-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde | 686 mg | BrC1=NNC2=C1N=C(C=1C=C(C=CC21)C=O)C2=C(C=CC=C2F)F | C17H8BrF2N3O
